US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.27 g of potassium carbonate and 3 ml of ethanol was stirred while heating at 60° C. for two hours and then at 90° C. for 2.5 hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.18 g of 2-(3-ethoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 69”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | 2-(3-ethoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.18 g | C(C)OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C15H11F3N2O2
